US05576324
2-Bromomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one
Reaction, past-process, and recrystallization (chloroform-methanol-ether) were performed in a manner similar to that described in Example 277 using 6-(2-methyl-2-propenyl)-5-hydroxy-3,8-dimethylcarbostyril (3.29 g, 13.54 mmol) and N-bromsuccinimide (2.41 g, 13.54 mmol). As a result, 3.93 g of the title compound was obtained as pale yellow prisms (90.1%).

reactant | 6-(2-methyl-2-propenyl)-5-hydroxy-3,8-dimethylcarbostyril | 13.54 mmol, 3.29 g | CC(CC=1C(=C2C=C(C(NC2=C(C1)C)=O)C)O)=C | C15H17NO2
reactant | N-bromsuccinimide | 13.54 mmol, 2.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-Bromomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 3.93 g | BrCC1(CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C | C15H16BrNO2
